US05273975
A mixture of 6-bromo-1,2,3,4-tetrahydro-8-nitro-3-quinolinamine (1.5 g, 5.5 mol), 37% aqueous formaldehyde (1.8 mL) and formic acid (10 mL) was heated at 100° C. for 1 hour. The solution was then evaporated, partitioned between ethyl acetate (200 mL) and 4 N sodium hydroxide solution (10 mL), and the ethyl acetate was evaporated to give a red oil. This was chromatographed on silica gel to give 1.58 g of 6-bromo-1,2,3,4-tetrahydro-8-nitro-N,N-dipropyl-3-quinolinamine. The product was crystallized from ethyl acetate:hexane; mp 88°-91° C. Anal. Calcd. for C11H14BrN3O2 : C, 44.01; H, 4.70; Br, 26.62; N, 14.00. Found: C, 44.04; H, 4.89; Br, 26.62; N, 13.97.

reactant | 6-bromo-1,2,3,4-tetrahydro-8-nitro-3-quinolinamine | 5.5 mol, 1.5 g | BrC=1C=C2CC(CNC2=C(C1)[N+](=O)[O-])N | C9H10BrN3O2
reactant | formaldehyde | 1.8 mL | C=O | CH2O
solvent | formic acid | 10 mL | C(=O)O | CH2O2
product | 6-bromo-1,2,3,4-tetrahydro-8-nitro-N,N-dipropyl-3-quinolinamine | 1.58 g | BrC=1C=C2CC(CNC2=C(C1)[N+](=O)[O-])N(CCC)CCC | C15H22BrN3O2
